US07652051B2
Synthesis of 6-[4-(5-{[3-(trifluoromethyl)phenyl]amino}-4H-[1,2,4]triazol-3-yl)-phenoxy]-pyrimidine-2,4-diamine
4-(5-{[3-(trifluromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl)phenol (160 mg, 0.5 mmol) was dissolved in 3 mL of anhydrous dioxane in 2-5 mL microwave vial (Personal Chemistry). Solid Cs2CO3 (163.0 mg, 0.5 mmol) was added, followed by 4-chloro-2,6,-diaminopyrimidine (79.5 mg, 0.55 mmol). The vial was capped and microwaved at 200° C. for 20 min. Then ca. 3 mL of MeOH was added to dissolve the formed suspension, the solution was transferred into a round-bottom flask and solvent was removed in vacuo. The residue was re-dissolved in 3 mL of DMF, filtered through 0.22 u syringe filter and purified by reverse phase preparative HPLC using acetontrile/water system with 0.01% of TFA.

reactant | 4-(5-{[3-(trifluromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl)phenol | 0.5 mmol, 160 mg | FC(C=1C=C(C=CC1)NC=1NC(=NN1)C1=CC=C(C=C1)O)(F)F | C15H11F3N4O
reactant | Cs2CO3 | 0.5 mmol, 163.0 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-2,6,-diaminopyrimidine | 0.55 mmol, 79.5 mg | ClC1=NC(=NC(=C1)N)N | C4H5ClN4
reactant | MeOH | ca. 3 mL | CO | CH4O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-[4-(5-{[3-(trifluoromethyl)phenyl]amino}-4H-[1,2,4]triazol-3-yl)-phenoxy]-pyrimidine-2,4-diamine | FC(C=1C=C(C=CC1)NC=1NC(=NN1)C1=CC=C(OC2=CC(=NC(=N2)N)N)C=C1)(F)F | C19H15F3N8O
